* Created by KLayout

* cell CLKBUF_X4
* pin A
* pin Y
* pin gnd
.SUBCKT CLKBUF_X4 A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 \$4 A \$5 \$5 PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS_mst
M$2 \$5 A \$4 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 14.1,44.8 PMOS_mst
M$3 \$4 A \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $4 r0 *1 18.1,44.8 PMOS_mst
M$4 \$5 A \$4 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $5 r0 *1 22.1,44.8 PMOS_mst
M$5 \$4 A \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $6 r0 *1 26.1,44.8 PMOS_mst
M$6 \$5 A \$4 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $7 r0 *1 30.1,44.8 PMOS_mst
M$7 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $8 r0 *1 34.1,44.8 PMOS_mst
M$8 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $9 r0 *1 38.1,44.8 PMOS_mst
M$9 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $10 r0 *1 42.1,44.8 PMOS_mst
M$10 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $11 r0 *1 46.1,44.8 PMOS_mst
M$11 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $12 r0 *1 50.1,44.8 PMOS_mst
M$12 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $13 r0 *1 54.1,44.8 PMOS_mst
M$13 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $14 r0 *1 58.1,44.8 PMOS_mst
M$14 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $15 r0 *1 62.1,44.8 PMOS_mst
M$15 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $16 r0 *1 66.1,44.8 PMOS_mst
M$16 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $17 r0 *1 70.1,44.8 PMOS_mst
M$17 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $18 r0 *1 74.1,44.8 PMOS_mst
M$18 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $19 r0 *1 78.1,44.8 PMOS_mst
M$19 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $20 r0 *1 82.1,44.8 PMOS_mst
M$20 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $21 r0 *1 86.1,44.8 PMOS_mst
M$21 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $22 r0 *1 90.1,44.8 PMOS_mst
M$22 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $23 r0 *1 94.1,44.8 PMOS_mst
M$23 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $24 r0 *1 98.1,44.8 PMOS_mst
M$24 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $25 r0 *1 102.1,44.8 PMOS_mst
M$25 Y \$4 \$5 \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $26 r0 *1 106.1,44.8 PMOS_mst
M$26 \$5 \$4 Y \$5 PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $27 r0 *1 6.1,6.8 NMOS_mst
M$27 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $28 r0 *1 10.1,6.8 NMOS_mst
M$28 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $29 r0 *1 14.1,6.8 NMOS_mst
M$29 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $30 r0 *1 18.1,6.8 NMOS_mst
M$30 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $31 r0 *1 22.1,6.8 NMOS_mst
M$31 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $32 r0 *1 26.1,6.8 NMOS_mst
M$32 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $33 r0 *1 30.1,6.8 NMOS_mst
M$33 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $34 r0 *1 34.1,6.8 NMOS_mst
M$34 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $35 r0 *1 38.1,6.8 NMOS_mst
M$35 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $36 r0 *1 42.1,6.8 NMOS_mst
M$36 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $37 r0 *1 46.1,6.8 NMOS_mst
M$37 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $38 r0 *1 50.1,6.8 NMOS_mst
M$38 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $39 r0 *1 54.1,6.8 NMOS_mst
M$39 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $40 r0 *1 58.1,6.8 NMOS_mst
M$40 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $41 r0 *1 62.1,6.8 NMOS_mst
M$41 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $42 r0 *1 66.1,6.8 NMOS_mst
M$42 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $43 r0 *1 70.1,6.8 NMOS_mst
M$43 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $44 r0 *1 74.1,6.8 NMOS_mst
M$44 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $45 r0 *1 78.1,6.8 NMOS_mst
M$45 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $46 r0 *1 82.1,6.8 NMOS_mst
M$46 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $47 r0 *1 86.1,6.8 NMOS_mst
M$47 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $48 r0 *1 90.1,6.8 NMOS_mst
M$48 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $49 r0 *1 94.1,6.8 NMOS_mst
M$49 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $50 r0 *1 98.1,6.8 NMOS_mst
M$50 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $51 r0 *1 102.1,6.8 NMOS_mst
M$51 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $52 r0 *1 106.1,6.8 NMOS_mst
M$52 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS CLKBUF_X4
